US07335799B2
An aqueous solution of NaOH (30%, 240 mL) was added dropwise to a stirred solution of 4-iodobutane (110.5 g, 0.6 mol), p-toluenesulfonyl methyl isocyanide (58.6 g, 0.3 mol), and tetrabutylammonium iodide (8.0 g, 21.6 mmol) in CH2Cl2 (300 mL) at room temperature. The reaction mixture was stirred overnight and diluted with water (200 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (3×100 mL). The organic layers were combined, washed with saturated NaCl solution (100 mL), dried over MgSO4, and concentrated in vacuo. The residue was taken up in diethyl ether (3×200 mL) and filtered. The filtrate was concentrated and purified by column chromatography (silica gel, ethyl acetate/hexanes=1:3) to give 1-(1-isocyanopentane-1-sulfonyl)-4-methylbenzene (65.7 g, 87%) as an oil. Under N2-atmosphere, sodium hydride (60% dispersion in mineral oil, 11.0 g, 0.275 mol) was added in portions to a solution of ethyl 7-bromo-2,2-dimethylheptanoate (72.8 g, 0.27 mol) and 1-(1-isocyanopentane-1-sulfonyl)-4-methylbenzene (69.0 g, 0.27 mol) in DMSO (500 mL) and diethyl ether (500 mL) at room temperature. After 30 min, tetrabutylammonium iodide (8.0 g, 21.7 mmol) was added and the mixture was stirred for 5 h. A precipitate formed and additional DMSO (500 mL) was added. After stirring overnight at room temperature, the mixture was heated to reflux for 3 h. Water (500 mL) and diethyl ether (500 mL) were added and the layers were separated. The aqueous layer was extracted with diethyl ether (4×200 mL). The combined organic layers were washed with water (500 mL) and saturated NaCl solution (300 mL), dried over MgSO4, and concentrated in vacuo to give crude 8-isocyano-2,2-dimethyl-8-(toluene-4-sulfonyl)-dodecanoic acid ethyl ester (126.2 g) as a dark oil, which was used without further purification. Concentrated, hydrochloric acid (200 mL) was added slowly to a solution of crude 8-isocyano-2,2-dimethyl-8-(toluene-4-sulfonyl)-dodecanoic acid ethyl ester (126.2 g, 0.29 mol) in methylene chloride (300 mL). The reaction mixture was stirred at room temperature for 4 h. Water (500 mL) was added. The aqueous layer was separated and extracted with methylene chloride (3×100 mL). The organic solutions were combined, washed with water (300 mL) and saturated, aqueous NaHCO3 solution (200 mL) and dried over MgSO4. The solvent was evaporated and the residue was purified by column chromatography (silica gel, ethyl acetate/hexanes=1:10) to yield 2,2-dimethyl-8-oxododecanoic acid ethyl ester (69.6 g, 89%) as an oil. 1H NMR (300 MHz, CDCl3/TMS): δ (ppm): 4.1 (q, J=7.3 Hz, 2H), 2.40-2.31 (m, 4H), 1.58-1.45 (m, 6H), 1.31-1.19 (m, 6H), 1.22 (t, 3H, J=7.3 Hz), 1.12 (s, 6H), 0.88 (t, J=7.3 Hz, 3H). 13C NMR (75 MHz, CDCl3/TMS): δ (ppm): 210.5, 178.0, 60.5, 42.5, 42.0, 30.0, 27.0, 26.0, 25.5, 24.0, 23.0, 14.5, 14.0. HRMS (LSIMS, gly): Calcd for C16H31O3 (MH+): 271.2273, found: 271.2275. HPLC: 84% pure.

reactant | hydrochloric acid | 200 mL | Cl | ClH
reactant | 8-isocyano-2,2-dimethyl-8-(toluene-4-sulfonyl)-dodecanoic acid ethyl ester | 0.29 mol, 126.2 g | C(C)OC(C(CCCCCC(CCCC)(S(=O)(=O)C1=CC=C(C=C1)C)[N+]#[C-])(C)C)=O | C24H37NO4S
reactant | Water | 500 mL | O | H2O
solvent | methylene chloride | 300 mL | C(Cl)Cl | CH2Cl2
product | 2,2-dimethyl-8-oxododecanoic acid ethyl ester | 69.6 g, 89% | C(C)OC(C(CCCCCC(CCCC)=O)(C)C)=O | C16H30O3
